US06025390
(2Z,4E)-5-(Benzothiophen-2-yl)-2-methoxy-N-[(1,2,2,6,6-pentamethyl)-piperidin-4-yl]-2,4-pentadienamide.
A solution of (2Z,4E)-5-(benzothiophen-2-yl)-2-methoxy-2,4-pentadienoic acid (53 mg, 0.20 mmol), 4-amino-1,2,2,6,6-pentamethylpiperidine (34 mg, 0.20 mmol), 1-hydroxy-7-azabenzotriazole hydrate (27 mg, 0.20 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (38 mg, 0.20 mmol) in DMF (1 ml) was stirred at RT for 6 hours. After the same work up as seen in example 3 pure title compound was obtained (22 mg, 0.054 mmol, yield 26.6%) as white crystals, m.p.=240°.

reactant | (2Z,4E)-5-(benzothiophen-2-yl)-2-methoxy-2,4-pentadienoic acid | 0.20 mmol, 53 mg | S1C(=CC2=C1C=CC=C2)/C=C/C=C(/C(=O)O)\OC | C14H12O3S
reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 0.20 mmol, 34 mg | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | 1-hydroxy-7-azabenzotriazole hydrate | 0.20 mmol, 27 mg | O.ON1N=NC2=C1N=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.20 mmol, 38 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (2Z,4E)-5-(Benzothiophen-2-yl)-2-methoxy-N-[(1,2,2,6,6-pentamethyl)-piperidin-4-yl]-2,4-pentadienamide | yield 26.6% | S1C(=CC2=C1C=CC=C2)/C=C/C=C(/C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)\OC | C24H32N2O2S
